US06759493B1
Synthesis of Bis (2-pyridinoxy) Platinum Dichloride
To a solution of 0.02 moles of 2-hydroxypyridine and 0.02 moles of triethylamine in 50 mL of THF, a solution of 0.01 moles of platinum tetrachloride is added dropwise at 0° C. The solution is then stirred overnight at room temperature. After filtration, the THF solution is evaporated and the product is extracted from the residue. Polymers may be produced using the catalyst by following the procedure of Example 4.

reactant | 2-hydroxypyridine | 0.02 moles | OC1=NC=CC=C1 | C5H5NO
reactant | triethylamine | 0.02 moles | C(C)N(CC)CC | C6H15N
reactant | platinum tetrachloride | 0.01 moles | [Pt](Cl)(Cl)(Cl)Cl
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | Bis (2-pyridinoxy) Platinum Dichloride | N1=C(C=CC=C1)O[Pt](OC1=NC=CC=C1)(Cl)Cl | InChI=1S/2C5H5NO.2ClH.Pt/c2*7-5-3-1-2-4-6-5;;;/h2*1-4H,(H,6,7);2*1H;/q;;;;+4/p-4
